US06407111B1
a) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-(2-phenylamino-phenyl)-acetamide
To a solution of 545 mg (2.0 mmol) 3,5-bis(trifluoromethyl)phenylacetic acid in 2 ml tetrahydrofuran at 0° C. were added 325 mg (2.0 mmol) 1,1′-carbonyldiimidazole. After stirring for 2.5 h at room temperature, 305 mg (1.66 mmol) 2-aminodiphenylamine were added and stirring was continued for 8 h at 60° C. The solvent was removed in vacuo and the residue was purified by flash chromatography to give 480 mg (66%) of the title compound as white crystals.

reactant | 3,5-bis(trifluoromethyl)phenylacetic acid | 2.0 mmol, 545 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)O)(F)F | C10H6F6O2
reactant | 1,1′-carbonyldiimidazole | 2.0 mmol, 325 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-aminodiphenylamine | 1.66 mmol, 305 mg | C1=CC=C(C=C1)NC2=CC=CC=C2N | C12H12N2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-(2-phenylamino-phenyl)-acetamide | 480 mg, 66% | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)NC1=C(C=CC=C1)NC1=CC=CC=C1)(F)F | C22H16F6N2O
